US07402589B2
Preparation of (3S)-3-[4-(4-methoxyphenylamino)pyrimidin-2-ylamino]-2-methyl-butan-2-ol (2):
(3S)-3-Amino-2-methyl-butan-2-ol HCl (1.00 mg, 7.16 mmol; prepared using the method of Konno et. al., Chem. Pharm. Bull. 1997, 45, 185) is dissolved in N-methyl-pyrrolidinone (10 mL). Hunig's base (1.62 mL, 9.30 mmol) is added followed by (2-chloropyrimidin-4-yl)-(4-methoxyphenyl)-amine, 1, (789 mg, 3.35 mmol) and the solution warmed to 140° C. After 24 hours, the reaction mixture is cooled to room temperature and diluted with water (100 mL) and the mixture extracted three times with CH2Cl2 (100 mL). The combined organic layers are washed with saturated aqueous sodium bicarbonate solution (100 mL) and brine (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified over silica (100% CH2Cl2 to 5% to 10% MeOH/CH2Cl2) to afford 564 mg (46% yield) of the desired product as a tan solid. 1H NMR (300 MHz, CDCl3) δ 7.78 (d, J=5.8 Hz, 1H), 7.20 (d, J=9.0 Hz, 2H), 6.87 (d, J=9.0 Hz, 2H), 5.87 (d, J=5.8 Hz, 1H), 4.00-3.90 (m, 1H), 3.80 (s, 3H), 2.83 (s, 3H), 1.25 (s, 3H), 1.18 (d, J=7.3 Hz, 3H), 1.17 (s, 3H); MS (ESI) m/z 303 (M+1).

reactant | (3S)-3-Amino-2-methyl-butan-2-ol HCl | Cl.N[C@H](C(C)(O)C)C
reactant | Hunig's base | 9.30 mmol, 1.62 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2-chloropyrimidin-4-yl)-(4-methoxyphenyl)-amine | ClC1=NC=CC(=N1)NC1=CC=C(C=C1)OC | C11H10ClN3O
solvent | N-methyl-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | (3S)-3-[4-(4-methoxyphenylamino)pyrimidin-2-ylamino]-2-methyl-butan-2-ol | 564 mg, 46% yield | COC1=CC=C(C=C1)NC1=NC(=NC=C1)N[C@H](C(C)(O)C)C | C16H22N4O2
